US09233974B2
To a solution of tert-butyl (2S,5S)-2-[9-(2-{(2S,5S)-1-[N-(methoxycarbonyl)-L-isoleucyl]-5-methylpyrrolidin-2-yl}-1H-imidazol-5-yl)-1,11-dihydroisochromeno[4′,3′:6,7]naphtho[1,2-d]imidazol-2-yl]-5-methylpyrrolidine-1-carboxylate (0.30 g, 0.39 mmol) in a mixture of dichloromethane (4 mL) and methanol (0.5 mL) was added HCl (4M in dioxanes, 1.45 mL, 5.80 mmol). The solution was heated to 40° C. for 1 h and cooled to room temperature. The solution was then concentrated in vacuo. The resulting solid was dissolved in DMF (3 mL), followed by the addition of (S)-2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-(methoxycarbonylamino)acetic acid (0.11 g, 0.46 mmol), HATU (0.18 g, 0.48 mmol), and diisopropylethylamine (0.3 mL, 1.72 mmol). The resulting solution was stirred at room temperature for 3 h. Aqueous HCl (6M, 4 drops) was added and the solution was purified by reverse phase HPLC (Gemini column, 10-53% MeCN/H2O/0.1% TFA). The desired fractions were combined, and the organics were concentrated in vacuo. The resulting aqueous solution was basified with saturated NaHCO3 to provide a white precipitate. The solid was filtered and dried to provide methyl {(2S,3S)-1-[(2S,5S)-2-(5-{2-[(2S,5S)-1-{(2S)-2-[(2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl]-2-[(methoxycarbonyl)amino]acetyl}-5-methylpyrrolidin-2-yl]-1,11-dihydroisochromeno[4′,3′:6,7]naphtho[1,2-d]imidazol-9-yl}-1H-imidazol-2-yl)-5-methylpyrrolidin-1-yl]-3-methyl-1-oxopentan-2-yl}carbamate (0.082 g, 23%) as a white powder. LCMS-ESI+: calc'd for C50H62N8O9: 903.08 (M+). Found: 903.84 (M+H+). 1H NMR (400 MHz, Methanol-d4) δ 8.36-8.22 (m, 1H), 7.98-7.82 (m, 1H), 7.69-7.20 (m, 8H), 5.22-5.07 (m, 3H), 5.02 (d, 1H), 4.73-4.64 (m, 1H), 4.49 (s, 3H), 4.26-3.97 (m, 4H), 3.79 (d, 1H), 3.72 (s, 1H), 3.63-3.52 (m, 4H), 3.47-3.32 (m, 1H), 2.61-2.43 (m, 1H), 2.32-1.98 (m, 4H), 1.95-1.78 (m, 1H), 1.79-1.65 (m, 1H), 1.54 (s, 4H), 1.41 (d, 2H), 1.28-1.09 (m, 3H), 1.04 (dd, 6H), 0.90 (d, 1H), 0.88-0.59 (m, 10H).

reactant | tert-butyl (2S,5S)-2-[9-(2-{(2S,5S)-1-[N-(methoxycarbonyl)-L-isoleucyl]-5-methylpyrrolidin-2-yl}-1H-imidazol-5-yl)-1,11-dihydroisochromeno[4′,3′:6,7]naphtho[1,2-d]imidazol-2-yl]-5-methylpyrrolidine-1-carboxylate | 0.39 mmol, 0.30 g | COC(=O)N[C@@H]([C@@H](C)CC)C(=O)N1[C@@H](CC[C@@H]1C)C=1NC(=CN1)C1=CC=C2C(=C1)COC1=C2C=C2C=CC3=C(NC(=N3)[C@H]3N([C@H](CC3)C)C(=O)OC(C)(C)C)C2=C1 | C44H53N7O6
reactant | HCl | 5.80 mmol, 4M, 1.45 mL | Cl | ClH
reactant | (S)-2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-(methoxycarbonylamino)acetic acid | 0.46 mmol, 0.11 g | C[C@H]1O[C@@H](CC(C1)[C@@H](C(=O)O)NC(=O)OC)C | C11H19NO5
reactant | HATU | 0.48 mmol, 0.18 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.72 mmol, 0.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | methanol | 0.5 mL | CO | CH4O
catalyst | HCl | 6M, 4 drops | Cl | ClH
product | methyl {(2S,3S)-1-[(2S,5S)-2-(5-{2-[(2S,5S)-1-{(2S)-2-[(2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl]-2-[(methoxycarbonyl)amino]acetyl}-5-methylpyrrolidin-2-yl]-1,11-dihydroisochromeno[4′,3′:6,7]naphtho[1,2-d]imidazol-9-yl}-1H-imidazol-2-yl)-5-methylpyrrolidin-1-yl]-3-methyl-1-oxopentan-2-yl}carbamate | 0.082 g, 23% | C[C@H]1O[C@@H](CC(C1)[C@@H](C(=O)N1[C@@H](CC[C@@H]1C)C1=NC2=C(N1)C1=CC3=C(C=C1C=C2)C2=CC=C(C=C2CO3)C3=CN=C(N3)[C@H]3N([C@H](CC3)C)C([C@H]([C@H](CC)C)NC(OC)=O)=O)NC(=O)OC)C | C50H62N8O8
